US07202221B2
7-[(2-amino-butyl)amino]-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
To a solution of 7-chloro-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (1.0 g) in 1-methyl-2-pyrrolidinone (10 mL) was added butylenediamine (1.7 g). The mixture was heated at 130° C. for 16 h. The reaction mixture was cooled and poured into DCM (20 mL). The precipitate obtained was dispersed in MeOH and filtered to give the title compound (450 mg).

reactant | 7-chloro-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 1.0 g | ClC1=CC=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O | C13H10ClNO3
reactant | butylenediamine | 1.7 g | C(CCCN)N | C4H12N2
reactant | DCM | 20 mL | C(Cl)Cl | CH2Cl2
reactant | 1-methyl-2-pyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
solvent | MeOH | CO | CH4O
product | 7-[(2-amino-butyl)amino]-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 450 mg | NC(CNC1=CC=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)CC | C17H21N3O3
